US06503907B2
In analogy to example 4.6, Allyl-[5-(1H-indol-5-yl)-pentyl]-methyl-amine and 1-fluoro-4-trifluoromethyl-benzene were converted to yield Allyl-methyl-{5-[1-(4-trifluoromethyl-phenyl)-1H-indol-5-yl]-pentyl}-amine as light brown oil, MS: 401 (MH+).

reactant | Allyl-[5-(1H-indol-5-yl)-pentyl]-methyl-amine | C(C=C)N(C)CCCCCC=1C=C2C=CNC2=CC1 | C17H24N2
reactant | 1-fluoro-4-trifluoromethyl-benzene | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
product | Allyl-methyl-{5-[1-(4-trifluoromethyl-phenyl)-1H-indol-5-yl]-pentyl}-amine | C(C=C)N(CCCCCC=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C24H27F3N2
